US06071903
2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid
A solution of 0.75 g (1.72 mmol) of 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid, tert-butyl ester and 6 ml of trifluoroacetic acid in 6 ml of CH2Cl2 was stirred at room temperature for 3 hours and then concentrated to dryness under vacuum. To the residue was added H2O, CH2Cl2 and 1N NaOH until the aqueous layer reached pH 8. The aqueous layer was then separated, acidified with 2 N citric acid and extracted with ethyl acetate. The extract was washed with H2O, brine and dried Na2SO4. The solvent was removed under vacuum to give 0.35 g (54%) of a solid. Anal. for C17H20N2O6S: Calc'd: C, 53.7; H,5.3; N,7.4; Found: C, 53.0; H,5.3; N,6.9.

reactant | 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid, tert-butyl ester | 1.72 mmol, 0.75 g | NC1=C(CN(C(C(=O)OC(C)(C)C)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C21H28N2O6S
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid | 0.35 g, 54% | NC1=C(CN(C(C(=O)O)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C17H20N2O6S
